US09102674B2
Step B: tert-Butyl (2-(7-((3-chlorobenzyl)oxy)quinoline-3-carboxamido)ethyl)carbamate.
To a solution of 7-((3-chlorobenzyl)oxy)quinoline-3-carbonyl chloride in THF (1.5 mL) was added tert-butyl (2-aminoethyl)carbamate (38 mg, 0.23 mmol) and triethylamine (0.044 mL, 0.32 mmol). The reaction was stirred for 14 h. The crude reaction was loaded directly onto a column and purification (FCC, SiO2, 0-5%, MeOH/DCM) afforded the title compound as a white solid (44 mg, 60%). 1H NMR (400 MHz, CDCl3) δ 9.31-9.20 (m, 1H), 8.61-8.51 (m, 1H), 7.80 (d, J=9.0 Hz, 1H), 7.68-7.60 (m, 1H), 7.49 (s, 2H), 7.40-7.29 (m, 4H), 5.20 (s, 2H), 5.09-4.92 (m, 1H), 3.68-3.59 (m, 2H), 3.50-3.43 (m, 2H), 1.44 (s, 9H). [M+H]=456.3

reactant | 7-((3-chlorobenzyl)oxy)quinoline-3-carbonyl chloride | ClC=1C=C(COC2=CC=C3C=C(C=NC3=C2)C(=O)Cl)C=CC1 | C17H11Cl2NO2
reactant | tert-butyl (2-aminoethyl)carbamate | 0.23 mmol, 38 mg | NCCNC(OC(C)(C)C)=O | C7H16N2O2
reactant | triethylamine | 0.32 mmol, 0.044 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
product | tert-Butyl (2-(7-((3-chlorobenzyl)oxy)quinoline-3-carboxamido)ethyl)carbamate | 44 mg, 60% | ClC=1C=C(COC2=CC=C3C=C(C=NC3=C2)C(=O)NCCNC(OC(C)(C)C)=O)C=CC1 | C24H26ClN3O4
